US05051445
The epoxide starting material is obtained by reacting 3-fluoro-4-methoxyphenol with 1-bromo-2-propoxyethane. After work up of the reaction mixture 2-fluoro-1-methoxy-4-(2-propoxyethoxy)benzene is obtained which is then reacted with sodium thioethoxide giving 2-fluoro-4-(2-propoxyethoxy)phenol which is then reacted with epichlorhydrin in the presence of a catalytic amount of piperidine.

reactant | 3-fluoro-4-methoxyphenol | FC=1C=C(C=CC1OC)O | C7H7FO2
reactant | 1-bromo-2-propoxyethane | BrCCOCCC | C5H11BrO
product | 2-fluoro-1-methoxy-4-(2-propoxyethoxy)benzene | FC1=C(C=CC(=C1)OCCOCCC)OC | C12H17FO3
